US07157487B2
(Step 3) Synthesis of trans-4-(1-((5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenyl)acetyl)-(2S)-pyrrolidinylmethoxy)-1-cyclohexanecarboxylic acid
To methyl 4-(1-((5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenyl)acetyl)-(2S)-pyrrolidinyl methoxy)-1-cyclohexanecarboxylate (556 mg, 0.953 mmol) were added THF (10 ml) and 0.25N NaOH (10 ml, 2.50 mmol). The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was poured in 1N HCl (100 ml), followed by extraction with chloroform-methanol (5:1, 2×100 ml). The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. To the residue were added chloroform and hexane. The crystals thus precipitated were collected by filtration under reduced pressure and dried under reduced pressure to give the title compound (400 mg, 74%) as a colorless solid.

reactant | methyl 4-(1-((5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenyl)acetyl)-(2S)-pyrrolidinyl methoxy)-1-cyclohexanecarboxylate | 0.953 mmol, 556 mg | ClC=1C(=CC(=C(C1)CC(=O)N1[C@@H](CCC1)COC1CCC(CC1)C(=O)OC)F)NC(=O)C1=CN(C2=CC=CC=C12)C | C31H35ClFN3O5
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | NaOH | 2.50 mmol, 0.25N, 10 ml | [OH-].[Na+]
solvent | HCl | 1N, 100 ml | Cl | ClH
product | trans-4-(1-((5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenyl)acetyl)-(2S)-pyrrolidinylmethoxy)-1-cyclohexanecarboxylic acid | 400 mg, 74% | ClC=1C(=CC(=C(C1)CC(=O)N1[C@@H](CCC1)CO[C@@H]1CC[C@H](CC1)C(=O)O)F)NC(=O)C1=CN(C2=CC=CC=C12)C | C30H33ClFN3O5
